Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Chloroquine
 
Attending: ___
 
Chief Complaint:
L2 fracture, back pain
 
Major Surgical or Invasive Procedure:
___: L2 corpectomy (retroperitoneal approach) and 
revision of posterior L1-L3 fusion 

 
History of Present Illness:
Mr. ___ is a ___ Ph.D. researcher at ___ who was 
in ___ for
research projects in ___. He had to jump out of a 
second-floor window secondary to a terrorist attack and broke 
his leg and fractured his L2 vertebrae.  He initially received 
care for this in ___. The patient continued to have back 
pain and after exhausting medical treatment, remained 
symptomatic. The decision was made to proceed with L2 corpectomy 
with a revision
of posterior instrumentation and fusion.

 
Past Medical History:
Mitral valve prolapse
headaches 
GERD

Past Surgical:
___: L ankle ORIF
___ L1-L3 fusion

 
Social History:
___
Family History:
NC
 
Physical Exam:
UPON DISCHARGE: 
Afebrile 
Vital sigs stable 
No apparent distress 
Heart rate regular 
Respirations non-labored 
Abdomen, soft, non-tender, non-distended 

Back incision clean, dry and intact with staples place 
___ strength throughout 
Sensation intact throughout 

 
Pertinent Results:
___: Portable abdomen xray
IMPRESSION:  
Diffuse dilatation of the large bowel in a pattern most 
consistent with ileus. No pneumoperitoneum or pneumatosis. 

___: Ultrasound Bilateral ___ veins
IMPRESSION:    
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

___: CTA Chest
IMPRESSION:   
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Bilateral small nonhemorrhagic pleural effusions and adjacent 
bibasilar 
atelectasis. 

___: Xray abdomen
IMPRESSION:   
1. Interval improvement of colonic ileus. 
2. Left loculated pleural effusion, better assessed on CT chest 
from the same day. 

___ Lumbosacral spine xray
IMPRESSION:    
Postsurgical changes.  No acute fracture. 

___ KUB **

 
Brief Hospital Course:
On ___, the patient was admitted for elective L2 corpectomy 
(retroperitoneal approach) and revision of posterior L1-L3 
fusion. He underwent this procedure with Dr. ___ was 
subsequently transferred out of the OR to the PACU for 
post-anesthesia care and monitoring. 

On ___ Patient was neurologically stable. He continued to 
complain of uncontrolled back pain so pain regimen was adjusted.

On ___, the patient continued with back pain which he states 
was mildly improved.  He complained of abdominal pain and 
distention and KUB showed large bowel ileus.  His bowel regimen 
was increased and he received enema with no immediate BM,but 
large amount of flatus.  The patient underwent workup for 
tachycardia, EKG showed sinus tach and Trops were negative.  
LENIs were negative for any DVTs and tachycardia improved to 110 
after pain improved.

On ___, overnight the patient's oxygen saturation dipped down 
to 80% while sleeping, and he was therefore placed on 1L NC. In 
the morning, his neurological and motor exam was stable. When 
working with ___ he had tachyacardia with a heart rate of 100 
that increased to 140 when he rose from sitting to standin. He 
also had a correlating O2 drop to the ___. A CTA was ordered and 
was negative for PE, though it revealed some atelectasis. A 
follow-up KUB was ordered for investigation of resolution of 
ileus, as he had a BM overnight. It showed interval improvement 
of colonic ileus. 

On ___, the patient remained neurologically stable. While 
trying to reposition himself in bed he reports he "snapped" his 
low back and has new posterior right sided lumbar pain. He 
denies numbness, tingling in his lower extremities. He is full 
strength bilaterally.  A repeat AP/LAT xray are stable.  Per CPS 
his diazepam was d/c'd and he was started on Tizanidine. Diet 
changed to full liquids.

On ___ the patient remained neurologically stable, and was 
awaiting a rehab bed. He continued to endorse right lower back 
pain, although continued on pain medication as needed. 
 
On ___ the patient remained neurologically and hemodynamically 
stable.  The patient was awaiting a rehab bed. 

On ___, the patient remained neurologically and hemodynamically 
stable. Patient complaining of diarrhea with intermittent 
abdominal pain. Ordered repeat KUB to evaluate previous ileus 
which showed resolving ileus. Diet was advanced as patient 
tolerates. 

At the time of discharge on ___ the patient's pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient will follow up with Dr. ___ 
routine. The patient expressed readiness for discharge.

 
Medications on Admission:
Gabapentin 300mg PO TID
lansoprazole 15mg PO daily
oxycodone prn
tramadol prn
Cialis 20mg q72 hours
 
Discharge Medications:
1. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every four (4) hours 
as needed Disp #*60 Tablet Refills:*0
2. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0
3. Calcium Carbonate 1000 mg PO QID:PRN indisgestion 
4. Acetaminophen 650 mg PO Q6H 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth Twice daily Disp 
#*28 Tablet Refills:*0
6. Tizanidine 2 mg PO TID:PRN muscle spasm 
RX *tizanidine 2 mg 1 tablet(s) by mouth Three times daily as 
needed Disp #*42 Tablet Refills:*0
7. Cyanocobalamin 1000 mcg PO DAILY 
8. FoLIC Acid ___ mcg PO DAILY 
9. lansoprazole 15 mg oral DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L2 fracture, back pain

 
Discharge Condition:
Stable

 
Discharge Instructions:
Surgery
Your dressing was removed on the second day after surgery. The 
wound may remain uncovered.  
Your incision is closed with staples. You will need to have 
staple removal. 
Do not apply any lotions or creams to the site. 
Please keep your incision dry until removal of your staples.
Please avoid swimming for two weeks after staple removal.
Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
You must wear your brace at all times when out of bed. You may 
apply your brace sitting at the edge of the bed. You do not need 
to sleep with it on. 
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
No contact sports until cleared by your neurosurgeon. 
Do NOT smoke. Smoking can affect your healing and fusion.

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc until cleared by your 
neurosurgeon.
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___